US07160888B2
A first intermediate compound, 7-Chloro-1H-[1,8]naphthyridin-2-one, was produced as follows: To a stirred solution of lithium hexamethyldisilazane (26.3 mmol, 1.0 M in THF) in THF (10 mL) at −78° C. is added t-butyl acetate (3.53 mL, 26.3 mmol) dropwise. The mixture is stirred at −78° C. for 30 min and N-(6-chloro-3-formyl-pyridin-2-yl)-2,2-dimethyl-propionamide (3.00 g, 12.5 mmol) in THF (20 mL) is added dropwise. A yellow precipitate forms and the mixture is stirred at −78° C. for 30 minutes and warmed to room temperature over 3 hours. H2O (10 mL) is added, the mixture stirred for 5 minutes and then diluted with ethyl acetate (20 mL) and brine (10 mL). The organic layer is separated, washed with brine (20 mL), dried over Na2SO4, filtered and concentrated under vacuum. The compound is recrystallized from ethyl acetate and hexanes to yield 3-[6-chloro-2-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-3-hydroxy-propionic acid tert-butyl ester (3.52 g, 79%); mp 130–132° C., 1H NMR (400 MHz, CDCl3) δ 8.25 (br s, 1H), 7.76 (d, 1H), 7.16 (d, 1H), 5.05–4.98 (m, 1H), 4.08 (d, 1H), 2.80 (dd, 1H), 2.70 (dd, 1H), 1.41 (s, 9H), 1.36 (s, 9H); MS ES+ 357.03 (M+H)+.

reactant | lithium hexamethyldisilazane | 26.3 mmol, 1.0 M | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | t-butyl acetate | 26.3 mmol, 3.53 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | N-(6-chloro-3-formyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 12.5 mmol, 3.00 g | ClC1=CC=C(C(=N1)NC(C(C)(C)C)=O)C=O | C11H13ClN2O2
reactant | H2O | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 10 mL | [Cl-].[Na+].O
product | 3-[6-chloro-2-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-3-hydroxy-propionic acid tert-butyl ester | 3.52 g, 79% | C(C)(C)(C)OC(CC(O)C=1C(=NC(=CC1)Cl)NC(C(C)(C)C)=O)=O | C17H25ClN2O4
